US06271261B1
c) Preparation of α-(trifluoromethyl)benzylamine
To a solution of α-(trifluoromethyl)benzylazide (849 mf, 4.22 mmol) in ether (10 mL), lithium aluminum hydride (160 mg, 12.7 mmol) was added. The reaction mixture was stirred at room temerature for 2 hours. Then 0.46 ml H2O, 0.51 mL of 15% NaOH and 1.06 mL of H2O were added. The solid was filtered. The liquid was concentrated under reduced pressure to give desired product (647 mg, 88%). EI-MS m/z 176 (M+).

reactant | α-(trifluoromethyl)benzylazide | 4.22 mmol | FC(C(C1=CC=CC=C1)N=[N+]=[N-])(F)F | C8H6F3N3
reactant | lithium aluminum hydride | 12.7 mmol, 160 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | H2O | 0.46 ml | O | H2O
reactant | NaOH | 0.51 mL | [OH-].[Na+]
reactant | H2O | 1.06 mL | O | H2O
solvent | ether | 10 mL | CCOCC | C4H10O
product | α-(trifluoromethyl)benzylamine | 647 mg, 88% | FC(C(C1=CC=CC=C1)N)(F)F | C8H8F3N
